US05270465
a) 4-Amino-2-[(4-methylphenoxy)methyl]pteridine
Obtained using the procedure described in section c of Example 2, starting with 6.9 g (0.057 mole) of 3-amino-2-pyrazinecarbonitrile and 14.1 g (0.086 mole) of 2-(4-methylphenoxy)acetamidine [prepared according to C. Djerassi and C. R. Scholz, U.S. Pat. No. 2,517,468; C.A. 1951, 45, 661f] in 350 ml of absolute ethanol. Refluxing time: 2 hours. Yld: 2.6 g (17%), m.p. 225°-227° C. (acetone/ethanol).

reactant | 3-amino-2-pyrazinecarbonitrile | 0.057 mole, 6.9 g | NC=1C(=NC=CN1)C#N | C5H4N4
reactant | 2-(4-methylphenoxy)acetamidine | 0.086 mole, 14.1 g | CC1=CC=C(OCC(=N)N)C=C1 | C9H12N2O
reactant | acetone ethanol | CC(=O)C.C(C)O
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 4-Amino-2-[(4-methylphenoxy)methyl]pteridine | NC1=NC(=NC2=NC=CN=C12)COC1=CC=C(C=C1)C | C14H13N5O
